US07943768B2
tert-Butyl 4-(5-chloro-1H-benzimidazol-2-yl)piperazine-1-carboxylate
To 2,5-dichloro-1H-benzimidazole (100 mg, Synth. Commun, 1998, 28, 9, 1703-12) and Boc-piperazine (150 mg) was added dry EtOH (5 mL) and then triethylamine (0.112 mL) and the reaction was heated in a microwave at 150° C. for 1 h. The reaction was then heated further for 2.5 h at 170° C. The solvent was then evaporated in vacuo and the residue purified by column chromatography 30-100% EtOAC:hexanes to afford the title compound (72 mg) as a colourless oil.

reactant | 2,5-dichloro-1H-benzimidazole | 100 mg | ClC1=NC2=C(N1)C=CC(=C2)Cl | C7H4Cl2N2
reactant | Boc-piperazine | 150 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | EtOH | 5 mL | CCO | C2H6O
solvent | triethylamine | 0.112 mL | C(C)N(CC)CC | C6H15N
product | tert-Butyl 4-(5-chloro-1H-benzimidazol-2-yl)piperazine-1-carboxylate | 72 mg | ClC1=CC2=C(NC(=N2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H21ClN4O2
